US08193187B2
7-Bromo-8-chloromethyl-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 2)
7-Bromo-8-hydroxymethyl-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 1, 37.5 mg, 0.125 mmol) was dissolved in anhydrous dichloromethane (1 mL), and triethylamine (20.9 μL, 0.150 mmol) and methanesulfonyl chloride (10.7 μL, 0.138 mmol) were added thereto successively. The reaction mixture was stirred at room temperature overnight. Ethyl acetate (10 mL) and water (10 mL) were added to the reaction mixture and partitioned. The organic layer was washed with saturated brine (10 mL), dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (28.7 mg) as an orange amorphous product. (Yield 72%)

reactant | 7-Bromo-8-hydroxymethyl-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 0.125 mmol, 37.5 mg | BrC1=CC=C2NC(C(N(C2=C1CO)C)=O)(C)C | C12H15BrN2O2
reactant | triethylamine | 0.150 mmol, 20.9 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.138 mmol, 10.7 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | 7-Bromo-8-chloromethyl-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 28.7 mg, Yield 72% | BrC1=CC=C2NC(C(N(C2=C1CCl)C)=O)(C)C | C12H14BrClN2O
